US07354932B2
Using the General Procedure for N-alkylation: A solution of (2S)-2-(tert-butoxycarbonylamino)-5-(5,6,7,8-tetrahydroquinolin-8-ylamino)-pentanoic acid tert-butyl ester (0.700 g, 1.67 mmol), 1-(tert-butoxycarbonyl)-2-(chloromethyl)-benzimidazole (0.690 g, 2.59 mmol) and N,N-diisopropylethylamine (0.60 mL, 3.44 mmol) in CH3CN (16 mL) was heated at 60° C. for 24 hours. Purification of the crude material by column chromatography on silica gel (50:1 CH2Cl2—MeOH) provided 0.830 g (77%) of 2-{[(4-tert-butoxycarbonyl-4-tert-butoxycarbonylamino-butyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester as a tan foam.

reactant | (2S)-2-(tert-butoxycarbonylamino)-5-(5,6,7,8-tetrahydroquinolin-8-ylamino)-pentanoic acid tert-butyl ester | 1.67 mmol, 0.700 g | C(C)(C)(C)OC([C@H](CCCNC1CCCC=2C=CC=NC12)NC(=O)OC(C)(C)C)=O | C23H37N3O4
reactant | 1-(tert-butoxycarbonyl)-2-(chloromethyl)-benzimidazole | 2.59 mmol, 0.690 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCl | C13H15ClN2O2
reactant | N,N-diisopropylethylamine | 3.44 mmol, 0.60 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH3CN | 16 mL | CC#N | C2H3N
product | 2-{[(4-tert-butoxycarbonyl-4-tert-butoxycarbonylamino-butyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.830 g, 77% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CCCC(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C36H51N5O6
